US04424359
(f) Preparation of [3-methyl-2,2'-bipyridin-6-yl-(methylene)]-triphenylphosphonium bromide
1.16 g (4.4 mmols) of 3-methyl-6-bromomethyl-2,2'-bipyridine together with 1.39 g (5.3 mmols) of triphenylphosphine in 50 ml of N,N-dimethylformamide are heated at 80° C. for 3 hours. At 23° C. and with rapid stirring, 50 ml of diethyl ether are added. The precipitating oily product crystallises after a short time and is filtered off with suction. After recrystallisation from 25 ml of water, 1.14 g (49% of theory) of [3-methyl-2,2'-bipyridin-6-yl-(methylene)]-triphenylphosphonium bromide are obtained in the form of colourless crystals; melting point 214°-215° C.

reactant | 3-methyl-6-bromomethyl-2,2'-bipyridine | 4.4 mmols, 1.16 g | CC=1C(=NC(=CC1)CBr)C1=NC=CC=C1 | C12H11BrN2
reactant | triphenylphosphine | 5.3 mmols, 1.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [3-methyl-2,2'-bipyridin-6-yl-(methylene)]-triphenylphosphonium bromide | [Br-].CC=1C(=NC(=CC1)C=C1C(C=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1)C1=NC=CC=C1 | InChI=1S/C30H25N2P.BrH/c1-23-19-20-25(32-30(23)28-17-10-11-21-31-28)22-24-12-8-9-18-29(24)33(26-13-4-2-5-14-26)27-15-6-3-7-16-27;/h2-22,29H,1H3;1H
